US08080541B2
Intermediate AD: ((1RS,2SR)-2-Cyclopentylamino-cyclopentyl)-carbamic acid tert-butyl ester
To a solution of [(1RS,2SR)-2-aminocyclopentyl-carbamic acid 1,1-dimethylethyl ester (CAS 365996-19-6) (500 mg, 2.497 mmol) in 10 ml methanol was added acetic acid (0.714 ml, 12.49 mmol) and cyclopentanone (0.665 ml, 7.491 mmol). The mixture was heated in a 50° C. oil bath for 1.5 hour. The solution was cooled to room temperature and sodium cyanoborohydride (370 mg, 5.0 mmol) was added portionwise. The mixture was heated in a 50° C. oil bath for 2.5 hours. The solution was cooled in an ice bath and quenched by dropwise addition of 6 ml 2N NaOH. The methanol was removed in vacuo. The aqueous layer was diluted with water and extracted 3 times with ethyl acetate. The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The crude oil was purified on silica gel (eluent: heptane/ethyl acetate 0 to 100%) to provide 0.39 g (58%) of the title compound as a light brown solid. MS (m/e): 269.3 (M+H).

reactant | (1RS,2SR)-2-aminocyclopentyl-carbamic acid 1,1-dimethylethyl ester | 2.497 mmol, 500 mg | CC(C)(C)OC(NC1C(CCC1)N)=O | C10H20N2O2
reactant | acetic acid | 12.49 mmol, 0.714 ml | C(C)(=O)O | C2H4O2
reactant | cyclopentanone | 7.491 mmol, 0.665 ml | C1(CCCC1)=O | C5H8O
reactant | sodium cyanoborohydride | 5.0 mmol, 370 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | ((1RS,2SR)-2-Cyclopentylamino-cyclopentyl)-carbamic acid tert-butyl ester | 0.39 g, 58% | C(C)(C)(C)OC(NC1C(CCC1)NC1CCCC1)=O | C15H28N2O2
